US08039490B2
4-[(5-Fluoro-thiophen-2-yl)-hydroxy-methyl]-piperidine-1-carboxylic acid tert-butyl ester
A 1.6 M solution of n-BuLi in Hex (3.71 ml, 5.9 mmol) was added to a cooled (−78° C.) solution of thiophene (500 mg, 5.9 mmol) in THF (15 ml) under Ar. After stirring 30 min at −78° C. a solution of N-fluorodibenzenesulfonimide (1.87 g, 5.9 mmol) in THF (10 ml) was added. Stirring at −78° C. was continued for 10 min before slow rising of the temperature to 0° C. over a period of 15 min. A solid precipitate was formed. The mixture was cooled to −78° C., a 1.6 M n-BuLi solution in Hex (3.71 ml, 0.59 ml) was added, then it was stirred 10 min before addition of 4-formyl-piperidine-1-carboxylic acid tert-butyl ester (836 mg, 3.9 mmol) in THF (5 ml). After stirring 30 min at −78° C. the solution was slowly warmed to room temperature. Sat. aq. NH4Cl sol. (5 ml) was added, the mixture was diluted with EtOAc (100 ml) and washed with sat. aq. NH4Cl sol. (100 ml), sat. aq. NaHCO3 (2×100 ml) and brine (100 ml). After drying (Na2SO4) and evaporation of the solvent, the crude product was purified by chromatography (amino modified silica gel, Hept to EtOAc) to yield 971 mg (79%) of a brown oil. MS (m/z): 316.1 ([M+H]+).

reactant | n-BuLi | [Li]CCCC
reactant | thiophene | 5.9 mmol, 500 mg | S1C=CC=C1 | C4H4S
reactant | N-fluorodibenzenesulfonimide | 5.9 mmol, 1.87 g | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
reactant | n-BuLi | 1.6 M | [Li]CCCC
reactant | 4-formyl-piperidine-1-carboxylic acid tert-butyl ester | 3.9 mmol, 836 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
reactant | NH4Cl | 5 ml | [NH4+].[Cl-]
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | EtOAc | 100 ml | CCOC(=O)C | C4H8O2
product | 4-[(5-Fluoro-thiophen-2-yl)-hydroxy-methyl]-piperidine-1-carboxylic acid tert-butyl ester | 971 mg, 79% | C(C)(C)(C)OC(=O)N1CCC(CC1)C(O)C=1SC(=CC1)F | C15H22FNO3S
